US06235742B1
N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}-(E)-3-ethoxy-2-propenamide
(E)-3-ethoxyacryloyl chloride (J. Chem. Soc; 1958,153) (298 mg, 0.0022 mol), was added dropwise to an ice-cooled solution of 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one (600 mg, 0.002 mol) in pyridine (15 ml) and the reaction stirred at room temperature for 20 hours. The mixture was partitioned between water (30 ml) and dichloromethane (30 ml), the aqueous layer acidified to pH1 with 2M aqueous hydrochloric acid solution and then extracted with dichloromethane (2×40 ml). The combined organic extracts were dried (MgSO4), filtered and evaporated under reduced pressure, to give, after recrystallisation from ethyl acetate/methanol the title compound (483 mg), m.p.241-243° C.

reactant | (E)-3-ethoxyacryloyl chloride | 0.0022 mol, 298 mg | C(C)O/C=C/C(=O)Cl | C5H7ClO2
reactant | 5-(4-aminobenzyl)-1-methyl-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-7-one | 0.002 mol, 600 mg | NC1=CC=C(CC=2NC(C3=C(N2)C(=NN3C)CCC)=O)C=C1 | C16H19N5O
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-{4-[(1-methyl-7-oxo-3-propyl-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidin-5-yl)methyl]phenyl}-(E)-3-ethoxy-2-propenamide | CN1N=C(C=2N=C(NC(C21)=O)CC2=CC=C(C=C2)NC(\C=C\OCC)=O)CCC | C21H25N5O3
